US07208493B2
N-[2-(1H-Indol-2-yl)-phenyl]-3-phenyl-propionamide
Prepared from 2-(2-aminophenyl) indole and hydrocinnamic acid in 54% yield following procedure 1. The product was crystallized from methanol. 99% Purity by LC/MS (230 DAD), Mass-spec [M+H+]=341, 1H NMR (DMSO-d6): 2.65 t, 7.5 Hz (2H), 2.91 t, 7.5 Hz (2H), 6.50 s (1H), 7.00 t, 7 Hz (1H), 7.10 t, 7 Hz (1H), 7.19–7.34 m (7H), 7.39 d, 8 Hz (1H), 7.51 d, 8 Hz (1H), 7.60–7.62 m (2H), 9.39 s (1H), 11.32 s (1H).

reactant | 2-(2-aminophenyl) indole | NC1=C(C=CC=C1)C=1NC2=CC=CC=C2C1 | C14H12N2
reactant | hydrocinnamic acid | C(CCC1=CC=CC=C1)(=O)O | C9H10O2
product | N-[2-(1H-Indol-2-yl)-phenyl]-3-phenyl-propionamide | 54% yield | N1C(=CC2=CC=CC=C12)C1=C(C=CC=C1)NC(CCC1=CC=CC=C1)=O | C23H20N2O
